US06194406B1
1-(3,4,5-Trimethoxybenzyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-(phenylmethyl)-5-oxopyrrolidine
Prepare by the method of Example 1.6 using 1-(3,4,5-trimethoxybenzyl)-3-(2-methanesulfonyloxyethyl)-3-(phenylmethyl)-5-oxopyrrolidine and 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane to give the title compound.

reactant | 1-(3,4,5-trimethoxybenzyl)-3-(2-methanesulfonyloxyethyl)-3-(phenylmethyl)-5-oxopyrrolidine | COC=1C=C(CN2CC(CC2=O)(CC2=CC=CC=C2)CCOS(=O)(=O)C)C=C(C1OC)OC | C24H31NO7S
reactant | 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | C16H24N4O
product | 1-(3,4,5-Trimethoxybenzyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-(phenylmethyl)-5-oxopyrrolidine | COC=1C=C(CN2CC(CC2=O)(CC2=CC=CC=C2)CCN2CCN(CCC2)C2=NC3=C(N2CCOCC)C=CC=C3)C=C(C1OC)OC | C39H51N5O5
